US07323472B2
To a solution of 3-[4-(2,6-difluoro-phenylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidin-5-yl]-propionic acid methyl ester (45 mg, 0.1 mmol) in methanol (5 mL) was added a solution of sodium methoxide (0.5 mL) and the reaction mixture was heated under reflux for 1 h. The reaction mixture was then evaporated, and EtOAc (20 mL) followed by H2O (10 mL) were added. Layers were separated, organic washed with satd aq NaCl, dried (MgSO4), filtered and the solvent was evaporated. Dichloromethane (5 mL) was added followed by 0.5 mL of oxalyl chloride and 0.1 mL of Et3N. The reaction mixture was then stirred for 2 h at 23°, H2O (5 mL) was then added followed by dichloromethane (15 mL). Layers were separated, organic layer was washed with sat'd aq. NaCl, dried (MgSO4), filtered and solvent was evaporated. The yellow residue was purified by Flash chromatography to give 11.2 mg (21% yield) of pure 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one. 1H-NMR (CDCl3): δ 2.20 (s, 3H), 2.29 (s, 3H), 3.85 (m, 4H), 7.02 (m, 4H), 7.21 (m, 1H), 7.42 (m, 1H). LC MS (m/e)=416.2 (MH+). Rt=2.44 min.

reactant | 3-[4-(2,6-difluoro-phenylamino)-6-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-pyrimidin-5-yl]-propionic acid methyl ester | 0.1 mmol, 45 mg | COC(CCC=1C(=NC(=NC1C1=C(C=C(C=C1)F)C)SC)NC1=C(C=CC=C1F)F)=O | C22H20F3N3O2S
reactant | sodium methoxide | 0.5 mL | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 8-(2,6-difluoro-phenyl)-4-(4-fluoro-2-methyl-phenyl)-2-methylsulfanyl-5,8-dihydro-6H-pyrido[2,3-d]pyrimidin-7-one | 11.2 mg, 21% yield | FC1=C(C(=CC=C1)F)N1C(CCC2=C1N=C(N=C2C2=C(C=C(C=C2)F)C)SC)=O | C21H16F3N3OS
